US08022206B2
3-(5-Aminocyclohex-1-enyl)-7-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine
The title compound was prepared according to General procedure A with starting material 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine and the mixture of [3-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)-cyclohex-3-enyl]-carbamic acid tert-butyl ester and [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclohex-2-enyl]-carbamic acid tert-butyl ester. 1H-NMR (CD3OD, 400 MHz): δ=1.43-1.59 (m, 1H), 1.86 (d, J=6.8 Hz, 3H), 1.89-1.98 (m, 1H), 2.08-2.22 (m, 1H), 2.28-2.45 (m, 2H), 2.59 (dd, J=16.3, 4.93 Hz, 1H), 2.98-3.14 (m, 1H), 6.25 (br. s., 1H), 6.48 (q, J=6.7 Hz, 1H), 7.15-7.24 (m, 1H), 7.38 (dd, J=9.0, 4.9 Hz, 1H), 7.54 (s, 1H), 8.15 (s, 1H). MS (ES+): m/z 436.03 (MH+, 35Cl, 37Cl), 437.97 (MH+, 35Cl, 37Cl). HPLC: tR=2.20 min (polar—5 min, ZQ3).

reactant | 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | [3-(4,4,5,5-Tetramethyl[1,3,2]dioxaborolan-2-yl)-cyclohex-3-enyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CC(=CCC1)B1OC(C(O1)(C)C)(C)C)=O | C17H30BNO4
reactant | [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclohex-2-enyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1C=C(CCC1)B1OC(C(O1)(C)C)(C)C)=O | C17H30BNO4
product | 3-(5-Aminocyclohex-1-enyl)-7-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine | NC1CCC=C(C1)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C21H20Cl2FN3O2
